US05208247
4-Nitrophenyl tetradecyl ether
A mixture of 75 g of 4-nitrophenol, 149.5 g of 1-bromotetradecane, 26.96 g of sodium hydroxide, 2.18 g of trioctyl methylammonium chloride, 400 ml of toluene and 400 of water is heated at reflux for 65 hours. The organic layer is separated, washed with 1N sodium hydroxide and dilute hydrochloric acid, dried and concentrated in vacuo. The residue is recrystallized from petroleum ether to give the desired product.

reactant | 4-nitrophenol | 75 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1-bromotetradecane | 149.5 g | BrCCCCCCCCCCCCCC | C14H29Br
reactant | sodium hydroxide | 26.96 g | [OH-].[Na+]
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | trioctyl methylammonium chloride | 2.18 g | [Cl-].C(CCCCCCC)[N+](C)(CCCCCCCC)CCCCCCCC
solvent | water | O | H2O
product | 4-Nitrophenyl tetradecyl ether | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)[N+](=O)[O-] | C20H33NO3
